US06130187
Preparation of 3-(4-chloro-2-ethyl-6-fluorobenzofuran-7-yl)-1-amino-6-trifluoromethyluracil (Compound No. 730)
80 ml of N,N-dimethylformamide was added to 3.4 g (9.0 mmol) of 3-(4-chloro-2-ethyl-6-fluorobenzofuran-7-yl)-6-trifluoromethyluracil, 2.7 g (14 mmol) of 2,4-dinitrophenoxyamine and 5.0 g (36 mmol) of potassium carbonate, followed by stirring at 60 to 70° C. for 1 hour. After completion of the reaction, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 2.0 g (yield: 58%) of the desired product as white crystals. Melting point: 145-147° C.

reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
reactant | 3-(4-chloro-2-ethyl-6-fluorobenzofuran-7-yl)-6-trifluoromethyluracil | 9.0 mmol, 3.4 g | ClC1=CC(=C(C2=C1C=C(O2)CC)N2C(NC(=CC2=O)C(F)(F)F)=O)F | C15H9ClF4N2O3
reactant | 2,4-dinitrophenoxyamine | 14 mmol, 2.7 g | [N+](=O)([O-])C1=C(ON)C=CC(=C1)[N+](=O)[O-] | C6H5N3O5
reactant | potassium carbonate | 36 mmol, 5.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 3-(4-chloro-2-ethyl-6-fluorobenzofuran-7-yl)-1-amino-6-trifluoromethyluracil | 2.0 g, yield: 58% | ClC1=CC(=C(C2=C1C=C(O2)CC)N2C(N(C(=CC2=O)C(F)(F)F)N)=O)F | C15H10ClF4N3O3
